US05438052
A solution of 6.25 ml of n-butyllithium (1.6M in n-hexane) in 50 ml of tetrahydrofuran is treated at -78° C. with 3.5 g of 5-bromo-2,2-diphenyl-1,3-benzodioxol and stirred for 10 minutes. The resulting solution is treated with about 10 g of solid carbon dioxide and subsequently warmed to room temperature. The precipitate formed is filtered off and dried. There are obtained 2.66 g of 2,2-diphenyl-1,3-benzodioxol-5-carboxylic acid lithium salt (1:1) as a white powder. This is dissolved in 20 ml of dimethylformamide and stirred at room temperature for 1 hour with 3.03 g of O-benzotriazol-1-yl-N,N,N',N'-tetra-methyluronium hexafluorophosphate (HBTU). The solvent is evaporated in a high vacuum, the residue is taken up in 15 ml of water and 15 ml of ethyl acetate and stirred in an ice bath for 45 minutes. The solid formed is filtered off under suction and dissolved in 40 ml of boiling ethyl acetate. A small amount of insoluble material is filtered off and the mother liquor is treated with n-hexane. The mixture is now concentrated until a suspension, which can still be filtered well, is obtained. The product is filtered off under suction and dried in a vacuum at 40° C. There are obtained 2.55 g of 1H-benzotriazol-1-yl 2,2-diphenyl-1,3-benzodioxol-5-carboxylate as white crystals of melting point 158°-160° C.

reactant | n-butyllithium | 1.6M, 6.25 ml | C(CCC)[Li]
reactant | 5-bromo-2,2-diphenyl-1,3-benzodioxol | 3.5 g | BrC1=CC2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H13BrO2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2-diphenyl-1,3-benzodioxol-5-carboxylic acid lithium salt | 2.66 g | [Li+].C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)C(=O)[O-])C2=CC=CC=C2 | InChI=1S/C20H14O4.Li/c21-19(22)14-11-12-17-18(13-14)24-20(23-17,15-7-3-1-4-8-15)16-9-5-2-6-10-16;/h1-13H,(H,21,22);/q;+1/p-1
